US08076125B2
(viii) 5-(11-(2-nitrobenzyloxy)-11-oxoundecyloxy)isophthalic acid
The previously prepared compound, di-tert-butyl 5-(11-(2-nitrobenzyloxy)-11-oxoundecyloxy)isophthalate, was dissolved in CH2Cl2 (10 mL) producing a yellow solution. Trifluoroacetic acid (TFA) (10 mL) was slowly added while stirring. The solution was stirred at room temperature for 1 hour. The solvent was removed by rotovap producing a white solid, which was washed four times with CH2Cl2 and dried under vacuum. A white power was produced. Yield: 0.127 g (100%). 1H-NMR (DMSO-d6) δ (ppm): 13.3 (s, 2H, OH), 8.1 (d, 1H, Ar), 8.0 (s, 1H, Ar), 7.8 (t, 1H, Ar), 7.7 (d, 1H, Ar), 7.6 (t, 11H, Ar), 7.6 (s, 2H, Ar), 5.4 (s, 2H, O—CH2), 4.0 (t, 2H, CH2—O), 2.4 (t, 2H, CH2—C═O), 1.7 (m, 2H, CH2), 1.5 (m, 2H, CH2), 1.4 (m, 2H, CH2), 1.2 (m, 10H, CH2). 13C-NMR (DMSO-d6) δ (ppm): 172.8, 166.7, 159.1, 147.8, 134.4, 132.9, 131.8, 129.9, 129.7, 125.2, 122.4, 119.3, 68.4, 62.6, 33.6, 29.2, 29.1, 29.0, 28.9, 28.8, 28.7, 25.7, 24.7. MS (ESI): (M)=500.4 (calc. 501.53).

reactant | di-tert-butyl 5-(11-(2-nitrobenzyloxy)-11-oxoundecyloxy)isophthalate | [N+](=O)([O-])C1=C(COC(CCCCCCCCCCOC=2C=C(C=C(C(=O)OC(C)(C)C)C2)C(=O)OC(C)(C)C)=O)C=CC=C1 | C34H47NO9
reactant | Trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(11-(2-nitrobenzyloxy)-11-oxoundecyloxy)isophthalic acid | [N+](=O)([O-])C1=C(COC(CCCCCCCCCCOC=2C=C(C=C(C(=O)O)C2)C(=O)O)=O)C=CC=C1 | C26H31NO9
